US08013156B2
2-Methyl-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (103 mgs, 0.27 mmol) was dissolved in dichloromethane (1.5 mL) to which was added TFA (2.0 mL) and the mixture stirred at room temperature for 1 hr until Boc removal was complete. The reaction mixture was concentrated in vacuo and redissolved in dichloromethane (1.0 mL) to which was added triethylamine (0.2 mL, 1.43 mmol) and 1-isocyanato-3,5-bis-trifluoromethyl-benzene (0.055 ml, 0.32 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the resulting residue purified by column chromatography (1:1 hexanes:EtOAc, followed by 1:3 hexanes:EtOAc) to give 98.9 mgs (69%) of 2-methyl-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide as a white solid after lyophilization from H2O—AcCN. 1H NMR (CDCl3) 8.77 (d, 2H), 7.94 (s, 2H), 7.82 (d, 1H), 7.71 (d, 2H), 7.52 (d, 1H), 7.49 (s, 1H), 7.23 (s, 1H), 5.62 (s, 2H), 4.60 (m, 1H), 4.01 (m, 1H), 3.97-3.86 (m, 2H), 3.52-3.45 (m, 2H), 3.34 (m, 1H), 1.26 (d, 3H) ppm. LC-MS (MH+)=541.

reactant | 2-Methyl-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 0.27 mmol, 103 mgs | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=NC=CN=C1OCC1=CC=NC=C1)C | C20H27N5O3
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-3,5-bis-trifluoromethyl-benzene | 0.32 mmol, 0.055 ml | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2-methyl-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 98.9 mgs, 69% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CC(N(CC1)C1=NC=CN=C1OCC1=CC=NC=C1)C)(F)F | C24H22F6N6O2
